US09023858B2
7-methoxy-2-(2,2,2-trifluoroethoxy)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one
7-Methoxy-2-(propylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one (350 mg) and 2,2,2-trifluoroethanol (592 μl) were dissolved in tetrahydrofuran (3 ml), and sodium hydride (60% in oil, 165 mg) was added thereto at room temperature. The reaction mixture was heated under reflux for 3 days, and allowed to be cooled to room temperature, and poured into 0.5M hydrochloric acid (10 ml). The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained white solid was purified by silica gel column chromatography (ethyl acetate/hexane) and then (NH, ethyl acetate/hexane) to give the white title compound (63 mg).

reactant | 7-Methoxy-2-(propylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | 350 mg | COC=1C=CC2=C(N=C(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)SCCC)N1 | C19H18F3N3O3S
reactant | 2,2,2-trifluoroethanol | 592 μl | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 165 mg | [H-].[Na+]
reactant | hydrochloric acid | 0.5M, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 7-methoxy-2-(2,2,2-trifluoroethoxy)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | 63 mg | COC=1C=CC2=C(N=C(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)OCC(F)(F)F)N1 | C18H13F6N3O4
